US04588719
4-Methoxyphenylpropionitrile
A stirred solution of α-cyano-β(4-methoxyphenyl)propionic acid (127.3 g) in DMF (280 ml) is heated to 150° C. for 5 hours. The reaction mixture is cooled, poured into a liter of water and extracted with ether. The ether extract is washed, dried over Na2SO4, filtered and the filtrate evaporated in vacuo yielding a liquid which upon distillation yields the decarboxylated product as a clear liquid, B.P. 115° C. (1 mm).

reactant | α-cyano-β(4-methoxyphenyl)propionic acid | 127.3 g | C(#N)C(C(=O)O)CC1=CC=C(C=C1)OC | C11H11NO3
reactant | water | a liter | O | H2O
reactant | DMF | 280 ml | CN(C)C=O | C3H7NO
product | 4-Methoxyphenylpropionitrile | COC1=CC=C(C=C1)C(C#N)C | C10H11NO
